US07820825B2
Preparation of 2-(2-{4-[(3′S)-1,3′-Bipyrrolidin-1′-ylcarbonyl]benzyl}-1H-benzimidazol-1-yl)ethanol Fumarate
Using essentially the same procedure described for Examples 217-222 and employing methyl 4-((1H-benzo[d]imidazol-2-yl)methyl)benzoate and 2-(2-bromoethoxy)tetrahydro-2H-pyran as starting materials, (3′S)-1′-{4-[(1-(2-(tetrahydro-pyran-2-yloxy)-ethyl)-1H-benzimidazol-2-yl)methyl]benzoyl}-1,3′-bipyrrolidine was obtained, [M+H] 503.2. A portion of (3′S)-1′-{4-[(1-(2-(tetrahydro-pyran-2-yloxy)-ethyl)-1H-benzimidazol-2-yl)methyl]benzoyl}-1,3′-bipyrrolidine was treated with hydrogen chloride in diethyl ether/ethanol, stirred at room temperature and concentrated in vacuo. The resultant residue was partitioned between aqueous potassium carbonate (1.0 M) and dichloromethane. The organic phase was separated, washed with water, dried over sodium sulfate and concentrated under reduced pressure. This residue was treated with fumaric acid in dichloromethane/methanol to give the title product. 1H NMR (300 MHz, DMSO-d6+TFA): 7.94 (m, 1 H), 7.79 (m, 1 H), 7.57 (d, 2 H), 7.57 (m, 2 H), 7.49 (d, 2 H), 6.65 (s, 2 H), 4.74 (s, 2 H), 4.58 (t, 2 H), 3.92 (m, 2 H), 3.80 (t, 2 H), 3.74 (m, 2 H), 3.51 (m, 2 H), 3.44-3.06 (br. s, 3 H), 2.33 (m, 1 H), 2.21 (m, 1 H), 1.99 (m, 4 H). [M+H] 419.17.

reactant | (3′S)-1′-{4-[(1-(2-(tetrahydro-pyran-2-yloxy)-ethyl)-1H-benzimidazol-2-yl)methyl]benzoyl}-1,3′-bipyrrolidine | O1C(CCCC1)OCCN1C(=NC2=C1C=CC=C2)CC2=CC=C(C(=O)N1C[C@H](CC1)N1CCCC1)C=C2 | C30H38N4O3
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether ethanol | C(C)OCC.C(C)O
product | 2-(2-{4-[(3′S)-1,3′-Bipyrrolidin-1′-ylcarbonyl]benzyl}-1H-benzimidazol-1-yl)ethanol Fumarate | C(\C=C\C(=O)O)(=O)O.N1(CCCC1)[C@@H]1CN(CC1)C(=O)C1=CC=C(CC2=NC3=C(N2CCO)C=CC=C3)C=C1 | InChI=1S/C25H30N4O2.C4H4O4/c30-16-15-29-23-6-2-1-5-22(23)26-24(29)17-19-7-9-20(10-8-19)25(31)28-14-11-21(18-28)27-12-3-4-13-27;5-3(6)1-2-4(7)8/h1-2,5-10,21,30H,3-4,11-18H2;1-2H,(H,5,6)(H,7,8)/b;2-1+/t21-;/m0./s1
